US04198424
1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanol
4.8 g of sodium borohydride are added portionwise with stirring to a solution of 6.5 g of 1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanone hydrochloride in 25 ml of methanol and 5 ml of water. After 1 hour the bulk of the methanol is distilled off under a vacuum. The residue is taken up with 20 ml of water and 10 ml of 6 N sodium hydroxide solution. The mixture is extracted 5 times with, in each case, 20 ml of diethylether. The organic phases are collected, dried over sodium sulphate and concentrated to an oil which is distilled. 4.5 g of the title compound are obtained as mixture of diastereoisomers of b.p. 136° at 0.005 mm Hg.

reactant | sodium borohydride | 4.8 g | [BH4-].[Na+]
reactant | 1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanone hydrochloride | 6.5 g | Cl.COC=1C=C(C=CC1)C(CC1NCCC1)=O
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanol | 4.5 g | COC=1C=C(C=CC1)C(CC1NCCC1)O | C13H19NO2
